US07932271B2
[5-Chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol
Under an argon atmosphere, n-butyl lithium (a 1.58M hexane solution, 0.33 ml, 0.520 mmol) was added to a toluene (5 ml) solution of 2-bromo-5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridine (200 mg, 0.434 mmol) at −78° C. The resulting mixture was stirred for 2 hours. To the reaction mixture was added dropwise dimethylformamide (44 μl, 0.564 mmol). The reaction mixture was stirred for 1 hour. To the reaction mixture were added methanol (5 ml) and sodium borohydride (33 mg, 0.868 mmol). The temperature of the resulting mixture was raised to room temperature, followed by stirring for 2 hours. Water was added to the reaction mixture and then, the resulting mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure to give the title compound (142 mg, 0.344 mmol, 80%) as a colorless amorphous substance.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromo-5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridine | 0.434 mmol, 200 mg | BrC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl)Cl | C18H10BrCl2F2NS
reactant | dimethylformamide | 0.564 mmol, 44 μl | CN(C=O)C | C3H7NO
reactant | sodium borohydride | 0.868 mmol, 33 mg | [BH4-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 1.58M | CCCCCC | C6H14
product | [5-Chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanol | 0.344 mmol, 142 mg, 80% | ClC=1C(=CC(=NC1)CO)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C19H13Cl2F2NOS
